US07517873B2
To a mixture of 0.09 g (0.0003 mole) of (rac)-2-chloro-9-cyclopentyl-7,8-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-41), 1 mL of N,N-dimethylacetamide and 0.028 mL (0.00045 mole) of iodomethane at 0 degrees was added 0.027 g (0.00045 mole) of 60% sodium hydride in oil. The mixture was stirred at ambient temperature for 1 hour, then 20 mL of water was added. The precipitate was collected by filtration to give 0.092 g of (rac)-2-chloro-9-cyclopentyl-5,7,8-trimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-41) as an yellow solid.

reactant | (rac)-2-chloro-9-cyclopentyl-7,8-dimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.0003 mole, 0.09 g | ClC=1N=CC2=C(N(C(C(C(N2)=O)C)C)C2CCCC2)N1 | C14H19ClN4O
reactant | N,N-dimethylacetamide | 1 mL | CN(C(C)=O)C | C4H9NO
reactant | iodomethane | 0.00045 mole, 0.028 mL | IC | CH3I
reactant | sodium hydride | 0.00045 mole, 0.027 g | [H-].[Na+]
solvent | water | 20 mL | O | H2O
product | (rac)-2-chloro-9-cyclopentyl-5,7,8-trimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.092 g | ClC=1N=CC2=C(N(C(C(C(N2C)=O)C)C)C2CCCC2)N1 | C15H21ClN4O
